### PR TITLE
[Merged by Bors] - feat(CategoryTheory): horizontal composition of Guitart exact squares

### PR DESCRIPTION
**Pull request by joelriou**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/GuitartExact/HorizontalComposition.lean [hunk 1]
```diff
@@ -0,0 +1,157 @@
...
+provide natural transformations `α : T ⟶ T'` and `β : B' ⟶ B`. -/
+@[simps!]
+def whiskerHorizontal (α : T' ⟶ T) (β : B ⟶ B') :
+    TwoSquare T' L R B' :=
+  (w.whiskerTop α).whiskerBottom β
+
+namespace GuitartExact
+
+/-- A 2-square stays Guitart exact if we replace the top and bottom functors
+by isomorphic functors. See also `whiskerVertical_iff`. -/
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/GuitartExact/HorizontalComposition.lean]:
```suggestion
by isomorphic functors. See also `whiskerHorizontal_iff`. -/
```
(I'm guessing this was accidentally copied from the vertical composition file)

File: Mathlib/CategoryTheory/GuitartExact/HorizontalComposition.lean [hunk 2]
```diff
@@ -0,0 +1,157 @@
...
+  NatIso.ofComponents (fun _ => CostructuredArrow.isoMk (Iso.refl _))
+
+set_option backward.isDefEq.respectTransparency false in
+lemma of_hComp [B₁.EssSurj] [w.GuitartExact] [(w ≫ₕ w').GuitartExact] :
+    w'.GuitartExact := by
+  rw [guitartExact_iff_final]
+  intro Y₂
+  rw [costructuredArrowRightwards_final_iff_of_iso _ (B₁.objObjPreimageIso Y₂).symm]
+  have := Functor.final_of_natIso (costructuredArrowRightwardsComp w w' (B₁.objPreimage Y₂)).symm
+  exact Functor.final_of_final_comp (w.costructuredArrowRightwards (B₁.objPreimage Y₂)) _
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/GuitartExact/HorizontalComposition.lean]:
```suggestion
lemma of_hComp [B₁.EssSurj] [w.GuitartExact] [(w ≫ₕ w').GuitartExact] :
    w'.GuitartExact := by
  rw [guitartExact_iff_final]
  intro Y₂
  rw [costructuredArrowRightwards_final_iff_of_iso _ (B₁.objObjPreimageIso Y₂).symm]
  have := Functor.final_of_natIso (costructuredArrowRightwardsComp w w' (B₁.objPreimage Y₂)).symm
  convert Functor.final_of_final_comp (w.costructuredArrowRightwards (B₁.objPreimage Y₂)) _
  exact this
```
This works, but I didn't investigate why. Is there something that can be made more reducible to make `exact` work?

Comment (joelriou) [reply Mathlib/CategoryTheory/GuitartExact/HorizontalComposition.lean]: I am not completely sure what is going on, but I have found a slightly better syntax without `set_option`.

**Comment by joelriou** [comment]
Thanks @dagurtomas for the reviews!

File: Mathlib/CategoryTheory/GuitartExact/HorizontalComposition.lean [hunk 3]
```diff
@@ -0,0 +1,158 @@
...
+
+lemma of_hComp [B₁.EssSurj] [w.GuitartExact] [(w ≫ₕ w').GuitartExact] :
+    w'.GuitartExact := by
+  rw [guitartExact_iff_final]
+  intro Y₂
+  rw [costructuredArrowRightwards_final_iff_of_iso _ (B₁.objObjPreimageIso Y₂).symm]
+  have : (w.costructuredArrowRightwards (B₁.objPreimage Y₂) ⋙
+      w'.costructuredArrowRightwards (B₁.obj (B₁.objPreimage Y₂))).Final :=
+    (Functor.final_of_natIso (costructuredArrowRightwardsComp w w' _).symm :)
+  exact Functor.final_of_final_comp (w.costructuredArrowRightwards (B₁.objPreimage Y₂)) _
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/GuitartExact/HorizontalComposition.lean:117]:
```suggestion
unif_hint {C D E : Type*} [Category* C] [Category* D] [Category* E] (F : C ⥤ D) (G : D ⥤ E)
    (X : C) where ⊢ (F ⋙ G).obj X ≟ G.obj (F.obj X) in
lemma of_hComp [B₁.EssSurj] [w.GuitartExact] [(w ≫ₕ w').GuitartExact] :
    w'.GuitartExact := by
  rw [guitartExact_iff_final]
  intro Y₂
  rw [costructuredArrowRightwards_final_iff_of_iso _ (B₁.objObjPreimageIso Y₂).symm]
  have : (w.costructuredArrowRightwards (B₁.objPreimage Y₂) ⋙
      w'.costructuredArrowRightwards (B₁.obj (B₁.objPreimage Y₂))).Final :=
    Functor.final_of_natIso (costructuredArrowRightwardsComp w w' _).symm
  exact Functor.final_of_final_comp (w.costructuredArrowRightwards (B₁.objPreimage Y₂)) _
```
This works to avoid the `:)`. Did someone experiment with making this a global unification hint? Does that have the same problems as making `Functor.comp` `implicit_reducible`?

Comment (joelriou) [reply Mathlib/CategoryTheory/GuitartExact/HorizontalComposition.lean:117]: `unif_hint` is one of the candidate solutions (see #38759) (along with `[reducible_proj]` or the introduction of an extra layer of transparency rules), but before a permanent solution is found and implemented, I do not think we should use `unif_hint` in mathlib. In general, I do not think there is anything wrong with using `:)`.

**Comment by dagurtomas** [comment]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
